US08563540B2
tert-Butyl 3-((2-(2-isopropyl-1H-benzo[d]imidazol-1-yl)-4-morpholinopyrido[3,2-d]pyrimidin-6-yl)methyl)azetidine-1-carboxylate (0.2 g) was deprotected with 4N HCl in dioxane (0.9 mL) at room temperature over 1 hour. The reaction was concentrated to dryness to afford crude 4-(6-(azetidin-3-ylmethyl)-2-(2-isopropyl-1H-benzo[d]imidazol-1-yl)pyrido[3,2-d]pyrimidin-4-yl)morpholine which was reacted with methyl 2-bromo-2-methylpropanoate (3 eq) and potassium carbonate (6 eq) at 75° C. for 3 hours. The reaction mixture loaded onto a Biotage isolute cartridge, eluted with 2M NH3 in MeOH then purified by reverse phase HPLC to yield 17.9 mg of 117. MS (Q1) 544.3 (M)+

reactant | tert-Butyl 3-((2-(2-isopropyl-1H-benzo[d]imidazol-1-yl)-4-morpholinopyrido[3,2-d]pyrimidin-6-yl)methyl)azetidine-1-carboxylate | 0.2 g | C(C)(C)C1=NC2=C(N1C=1N=C(C3=C(N1)C=CC(=N3)CC3CN(C3)C(=O)OC(C)(C)C)N3CCOCC3)C=CC=C2 | C30H37N7O3
reactant | HCl | 4N | Cl | ClH
solvent | dioxane | 0.9 mL | O1CCOCC1 | C4H8O2
product | 4-(6-(azetidin-3-ylmethyl)-2-(2-isopropyl-1H-benzo[d]imidazol-1-yl)pyrido[3,2-d]pyrimidin-4-yl)morpholine | N1CC(C1)CC=1C=CC=2N=C(N=C(C2N1)N1CCOCC1)N1C(=NC2=C1C=CC=C2)C(C)C | C25H29N7O
